US04513002
A solution of 305 g of crude diethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonate and 138 g of potassium hydroxide in 1.5 l of ethanol and 400 ml of water is heated to boiling under reflux for 1.5 hours while stirring and subsequently evaporated in vacuo. The residue obtained is partitioned between 1 l of ether and 1 l of ice-water. The aqueous, alkaline phase is extracted further with 500 ml of ether, made acid with about 220 ml of concentrated hydrochloric acid while cooling with ice and extracted with 2 l of ether. The ethereal phase is washed three times with 500 ml of water each time and the aqueous washings are back-extracted with 1 l of ether. The combined ether extracts are washed for an additional three to four times with saturated sodium chloride solution, dried over magnesium sulfate and concentrated to a volume of about 400 ml. After dilution with 300 ml of petroleum ether, the clear solution obtained is cooled in an ice-bath and left to stand at 4° overnight. The crystallized-out material is removed by filtration under suction while back-washing with petroleum ether and dried at 50° in a vacuum drying oven. There is obtained 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonic acid of melting point 183° (with decarboxylation).

reactant | diethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonate | 305 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C(C(=O)OCC)C(=O)OCC | C22H24O4
reactant | potassium hydroxide | 138 g | [OH-].[K+]
solvent | ethanol | 1.5 l | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonic acid | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C(C(=O)O)C(=O)O | C18H16O4
